US08017630B2
2-(4-Dimethylamino-4-phenylcyclohexylidene)-N-[3-(1H-indol-3-yl)propyl]acetamide
1-Hydroxybenzotriazole (819 mg, 6.0 mmol), 3-(1H-indol-3-yl)propylamine (522 mg, 3.0 mmol) and N-methylmorpholine (0.666 ml, 6.0 mmol) were added to a solution of (4-dimethylamino-4-phenylcyclohexylidene)acetic acid hydrochloride (887 mg, 3.0 mmol) in dry dimethylformamide (10 ml) under argon. The solution was cooled to 0° C. and dicyclohexylcarbodiimide (1.25 g, 6.0 mmol) was added. The reaction mixture was stirred at RT for 6 d. Working up of the mixture was carried out by separating off the urea which had precipitated out and introducing the filtrate into a mixture of saturated NaCl solution (40 ml) and saturated NaHCO3 solution (10 ml). Still further urea thereby precipitated out and was separated off. The aqueous phase was diluted with water (400 ml), 5 M sodium hydroxide solution (5 ml, 25 mmol) was added and the mixture was stored at 5° C. for 3 d. The product thereby precipitated out as a beige-coloured solid in a yield of 60% (742 mg) with an m.p. of 85-87° C.

reactant | 1-Hydroxybenzotriazole | 6.0 mmol, 819 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 3-(1H-indol-3-yl)propylamine | 3.0 mmol, 522 mg | N1C=C(C2=CC=CC=C12)CCCN | C11H14N2
reactant | N-methylmorpholine | 6.0 mmol, 0.666 ml | CN1CCOCC1 | C5H11NO
reactant | (4-dimethylamino-4-phenylcyclohexylidene)acetic acid hydrochloride | 3.0 mmol, 887 mg | Cl.CN(C1(CCC(CC1)=CC(=O)O)C1=CC=CC=C1)C
reactant | dicyclohexylcarbodiimide | 6.0 mmol, 1.25 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | sodium hydroxide | 25 mmol, 5 M, 5 ml | [OH-].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 400 ml | O | H2O
product | 2-(4-Dimethylamino-4-phenylcyclohexylidene)-N-[3-(1H-indol-3-yl)propyl]acetamide | yield of 60% | CN(C1(CCC(CC1)=CC(=O)NCCCC1=CNC2=CC=CC=C12)C1=CC=CC=C1)C | C27H33N3O
